US08258119B2
2-Aminothiophene-3-carboxamide:
To a solution of 2,5-dihydroxy-1,4-dithiane (10 g, 65.78 mmol) in ethanol (200 mL) and triethylamine (2 mL) was added cyanoacetamide (5.52 g, 65.78 mmol) at rt for 5 min. The reaction mixture was refluxed for 3 h and attained to rt. Ethanol (appr. 150 mL) was removed under reduced pressure and poured the contents into ice cold water and stirred for 15 min. The solution was extracted with ethyl acetate (3×100 mL) and the combined EtOAc layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using chloroform-methanol (95:5) as eluents to give the product as a pale yellow color solid (4.9 g, 53%), mp 150-152° C.

reactant | 2,5-dihydroxy-1,4-dithiane | 65.78 mmol, 10 g | OC1SCC(SC1)O | C4H8O2S2
reactant | cyanoacetamide | 65.78 mmol, 5.52 g | C(#N)CC(=O)N | C3H4N2O
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | 2-Aminothiophene-3-carboxamide | 4.9 g, 53% | NC=1SC=CC1C(=O)N | C5H6N2OS
